US04388475
Step B: Preparation of N-BOC allylglycine benzhydryl ester
N-BOC allylglycine, 269 mg, is treated with 243 mg of diphenyldiazomethane in 25 ml of acetonitrile for one hour. The solvent is evaporated. Benzene is added, washed with aqueous NaHCO3 and brine, dried with MgSO4, filtered and evaporated, affording crystalline product which is washed with hexane and dried, 380 mg, m.p. 79° C.

reactant | N-BOC allylglycine | C(=O)(OC(C)(C)C)C=CCNCC(=O)O | C10H17NO4
reactant | diphenyldiazomethane | 243 mg | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-BOC allylglycine benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(CNCC=CC(=O)OC(C)(C)C)=O | C23H27NO4
